US05232925
5-(4-[2-(N-Acetyl-N-(2-pyrimidinyl)amino)ethoxy]benzyl)-2,4-thiazolidinedione
A stirred solution of 5-[4-(2-(2-pyrimidinylamino) ethoxy)benzyl]-2,4-thiazolidinedione (800 mg) in acetic anhydride (15 ml) and 1,4-dioxan (5 ml) was boiled under reflux for 3 hours. After cooling, the mixture was added to water (300 ml), neutralized (sodium bicarbonate) and extracted with dichloromethane (3×200 ml). The organic extracts were washed with brine (100 ml), dried (MgSO4), filtered and evaporated to dryness. Chromatography on silica-gel in dichloromethane of the residual oil afforded the title compound (m.p. 137° C.).

reactant | 5-[4-(2-(2-pyrimidinylamino) ethoxy)benzyl]-2,4-thiazolidinedione | 800 mg | N1=C(N=CC=C1)NCCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C16H16N4O3S
reactant | water | 300 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | 1,4-dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | 5-(4-[2-(N-Acetyl-N-(2-pyrimidinyl)amino)ethoxy]benzyl)-2,4-thiazolidinedione | C(C)(=O)N(C1=NC=CC=N1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C18H18N4O4S
